US05185330
In 664 ml of methylene chloride was dissolved 83.0 g of (3R,5R,6R)-3-(3-benzylideneamino-2-oxo-imidazolidin-1-yl)-3-diphenylmethyloxycarbonyl-7-oxo-6-phenylacetamido-4-thia-1-azabicyclo[3.2.0]heptane. The solution was cooled to -60° C. To the solution were added 55.8 ml of N,N-dimethylaniline and 39.3 g of phosphorus pentachloride in this order. The temperature of the mixture was elevated to -20° C. in 30 minutes and then recooled to -60° C. To the reaction mixture was added 66.3 ml of anhydrous methanol, and the mixture was heated to 0° C. in 30 minutes and stirred at the same temperature for 30 minutes. 664 ml of ethyl acetate was added to the reaction mixture. The mixture was stirred for 15 minutes with ice cooling. The resulting crystals were collected by filtration, washed twice each with 83 ml of methylene chloride and once with 83 ml of ethyl acetate, and dried under reduced pressure to obtain 57.5 g (yield: 79.0%) of (3R,5R,6R)-6-amino-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-3-diphenylmethyloxycarbonyl-7-oxo-4-thia-1-azabicyclo[3.2.0] heptane hydrochloride.

reactant | (3R,5R,6R)-3-(3-benzylideneamino-2-oxo-imidazolidin-1-yl)-3-diphenylmethyloxycarbonyl-7-oxo-6-phenylacetamido-4-thia-1-azabicyclo[3.2.0]heptane | 83.0 g | C(C1=CC=CC=C1)=NN1C(N(CC1)[C@@]1(CN2C([C@H]([C@H]2S1)NC(CC1=CC=CC=C1)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H33N5O5S
reactant | N,N-dimethylaniline | 55.8 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus pentachloride | 39.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methanol | 66.3 ml | CO | CH4O
solvent | methylene chloride | 664 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 664 ml | C(C)(=O)OCC | C4H8O2
product | (3R,5R,6R)-6-amino-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-3-diphenylmethyloxycarbonyl-7-oxo-4-thia-1-azabicyclo[3.2.0] heptane hydrochloride | 57.5 g, yield: 79.0% | Cl.N[C@H]1[C@H]2S[C@](CN2C1=O)(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)N1C(N(CC1)N=CC1=CC=CC=C1)=O | InChI=1S/C29H27N5O4S.ClH/c30-23-25(35)32-19-29(39-26(23)32,33-16-17-34(28(33)37)31-18-20-10-4-1-5-11-20)27(36)38-24(21-12-6-2-7-13-21)22-14-8-3-9-15-22;/h1-15,18,23-24,26H,16-17,19,30H2;1H/t23-,26-,29-;/m1./s1
